US04713392
F. 1-(4-ethoxyphenyl)-1-(3-(3-phenoxyphenyl)-2-oxopropyl)-cyclopropane (Compound 1)
Jones reagent (2 ml, prepared by the method described in Fieser and Fieser Vol. 1, p. 142) is added dropwise to a stirring solution of 1-(4-ethoxyphenyl)-1-(3-(3-phenoxyphenyl)-2-hydroxypropyl)-cyclopropane (0.25 g) in acetone (5 ml) whilst maintaining the temperature below 5° C. After 15 min. the mixture is allowed to warm up to room temperature over 4 h, diluted with water, extracted with diethyl ether (x3), washed with water, dried and the solvent evaporated under reduced pressure. The product is purified by thin layer chromatography on silica gel diluted with 15% diethyl ether in petroleum ether (b.p. 60°-80° C.). Yield 0.03 g, nD 1.5580.

reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 1-(4-ethoxyphenyl)-1-(3-(3-phenoxyphenyl)-2-hydroxypropyl)-cyclopropane | 0.25 g | C(C)OC1=CC=C(C=C1)C1(CC1)CC(CC1=CC(=CC=C1)OC1=CC=CC=C1)O | C26H28O3
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 1-(4-ethoxyphenyl)-1-(3-(3-phenoxyphenyl)-2-oxopropyl)-cyclopropane | C(C)OC1=CC=C(C=C1)C1(CC1)CC(CC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C26H26O3
